US07601722B2
In an analogous manner to general procedure V, 1-[4-(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide (0.11 g, 0.24 mmol) was treated with dimethylamine (10 mL) to provide 0.09 g, (92%) of 1-(4-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N,N-dimethylmethanamine. MS (ES) m/z 411.0. HPLC purity 97.3% at 210-370 nm, 7.7 min.; Xterra RP18, 3.5 u, 150×4.6 mm column, 1.2 mL/min, 85/15-5/95 (Ammon. Form. Buff. Ph=3.5/ACN+MeOH) for 10 min, hold 4 min.

reactant | 1-[4-(bromomethyl)benzyl]-3-(2-fluorophenyl)-1,3-dihydro-2,1,3-benzothiadiazole2,2-dioxide | 0.24 mmol, 0.11 g | BrCC1=CC=C(CN2S(N(C3=C2C=CC=C3)C3=C(C=CC=C3)F)(=O)=O)C=C1 | C20H16BrFN2O2S
reactant | dimethylamine | 10 mL | CNC | C2H7N
product | 1-(4-{[3-(2-fluorophenyl)-2,2-dioxido-2,1,3-benzothiadiazol-1(3H)-yl]methyl}phenyl)-N,N-dimethylmethanamine | 92% | FC1=C(C=CC=C1)N1S(N(C2=C1C=CC=C2)CC2=CC=C(C=C2)CN(C)C)(=O)=O | C22H22FN3O2S
